US05565571
N-Carbobenzyloxy-4-(4-pyridyl)-3,5-difluoroaniline
Following the general procedure of PREPARATION 3 and making non-critical variations 4-(4-pyridyl)-3,5-difluoroaniline (PREPARATION 8, 236 mg, 1.15 mmol) is converted to the carbamate derivative. The crude product is purified by silica gel chromatography (100 g of SG, eluted with a 3-5% acetonitrile/chloroform gradient), the title compound is recovered as a solid, mp 185°-186°; FTIR (neat) cm-1 1743, 1642, 1605, 1254, 1072; HRMS calc'd for C19H14F2N2O2 =340.1023, found=340.1029; MS (EI, m/z) 340, 232, 108, 91, 79, 43; NMR (CDCl3) δ 8.67, 7.43-7.38, 7.15, 5.23.

reactant | 4-(4-pyridyl)-3,5-difluoroaniline | 1.15 mmol, 236 mg | N1=CC=C(C=C1)C1=C(C=C(N)C=C1F)F | C11H8F2N2
reactant | carbamate | C(N)([O-])=O
product | N-Carbobenzyloxy-4-(4-pyridyl)-3,5-difluoroaniline | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C(=C1)F)C1=CC=NC=C1)F | C19H14F2N2O2
